US07173030B2
DMF was added to tert-butyl [3-(1-bromoethyl)-1,2,4-thiadiazol-5-yl]carbamate (1.9 mmol), NaCN (1.1 eq) and NaI (1 eq). The reaction mixture was stirred for 30 min at 140° C. The reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure. Standard work-up and recrystallization from EtOH afforded tert-butyl [3-(1-cyanoethyl)-1,2,4-thiadiazol-5-yl]carbamate.

reactant | tert-butyl [3-(1-bromoethyl)-1,2,4-thiadiazol-5-yl]carbamate | 1.9 mmol | BrC(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C9H14BrN3O2S
reactant | NaCN | 1.1 eq | [C-]#N.[Na+]
reactant | NaI | 1 eq | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl [3-(1-cyanoethyl)-1,2,4-thiadiazol-5-yl]carbamate | C(#N)C(C)C1=NSC(=N1)NC(OC(C)(C)C)=O | C10H14N4O2S
